US07501430B2
9c: Preparation of (2R)-3-[(3R)-3-({4-[6-(3-hydroxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidin-1-yl]propane-1,2-diol
The (2R)-3-[(3R)-3-({4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidin-1-yl]propane-1,2-diol (150 mg, 0.312 mmol) in methylene chloride (10 ml) was cooled to −78° C. and slowly treated with 1 molar solution of boron tribromide in methylene chloride (2.5 ml). The reaction mixture was kept at −78° C. for one hour then was allowed to warm to room temperature for 18 hours. The mixture was quenched by the addition of methanol (5 ml) at −78° C. and was stirred at room temperature for an additional hour. The mixture was concentrated in vacuo and the crude product was purified by flash chromatography (6:1 EtOAc/MeOH+drops of aq. NH4OH), affording the title compound as a pale yellow solid (71 mg, 49%). M.p.=185-187° C. 400 MHz 1H NMR (DMSO-d6) δ: 9.39 (s, 1H), 8.72 (br. s, 1H), 8.12 (d, J=5.1 Hz, 1H), 7.43 (d, J=4.4 Hz, 1H), 7.32 (br. s, 1H), 7.26-7.20 (m, 1H), 7.00-6.95 (m, 2H), 6.84-6.81 (m, 1H), 6.45 (d, J=5.5 Hz, 1H), 5.28-5.03 (br. s, 1H), 4.90-4.65 (br. s, 1H), 4.34-4.22 (m, 1H), 3.98-3.84 (m, 1H), 3.47-3.38 (m, 1H), 3.35-3.25 (m, 1H), 3.15-2.65 (m, 4H), 2.10-1.88 (m, 2H), 1.87-1.72 (m, 2H), 1.65-1.40 (m, 2H). LCMS: 467 [M+H].

reactant | (2R)-3-[(3R)-3-({4-[6-(3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidin-1-yl]propane-1,2-diol | 0.312 mmol, 150 mg | COC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)C[C@H](CO)O | C24H28N6O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | (2R)-3-[(3R)-3-({4-[6-(3-hydroxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidin-1-yl]propane-1,2-diol | 71 mg, 49% | OC=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)C[C@H](CO)O | C23H26N6O3S
